US07304066B2
N-[6-(3-pyridyl-oxy)-1-hexyl]-N′-cyano-N″-(4-pyridyl)-guanidine
A mixture of 3-[6-amino-1-hexyl-oxy]-pyridine (150 mg), S-methyl-N-cyano-N′-4-pyridyl-isothiourea (123 mg), triethylamine (0.18 ml), 4-(N,N-dimethylamino)-pyridine (3.5 mg) and pyridine (5 ml) was stirred overnight at 60° C. After cooling to room temperature the pyridine was removed by evaporation twice with toluene in vacuo and the residue was distributed between water and ethyl acetate. The organic phase was dried and evaporated to yield a crude product which was purified by chromatography on silica gel with ethyl acetate/methanol/aqueous ammonia (40:10:2.5) as eluent. The pure fractions were pooled and evaporated to give the title compound which crystallised from ethyl acetate.

reactant | 3-[6-amino-1-hexyl-oxy]-pyridine | 150 mg | NCCCCCCOC=1C=NC=CC1 | C11H18N2O
reactant | S-methyl-N-cyano-N′-4-pyridyl-isothiourea | 123 mg | CSC(NC#N)=NC1=CC=NC=C1 | C8H8N4S
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-(N,N-dimethylamino)-pyridine | 3.5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[6-(3-pyridyl-oxy)-1-hexyl]-N′-cyano-N″-(4-pyridyl)-guanidine | N1=CC(=CC=C1)OCCCCCCNC(=NC1=CC=NC=C1)NC#N | C18H22N6O
